US05045228
In 20 ml of benzene were dissolved 2.2 g of 4-heptyloxybenzyl alcohol and 1.7 g of ethyl 4-hydroxybenzoate, 1.8 g of diethyl azodicarboxylate and 2.6 g of triphenylphosphine were added to the solution, and a reaction was carried out with stirring. The reaction liquid was concentrated and the concentrate was separated and purified by the silica gel chromatography to obtain 3.1 g of ethyl 4-(4'-heptyloxybenzyloxy)benzoate. This ester was dissolved in 20 ml of ethanol and 4.2 ml of a 2N aqueous KOH solution was added to the solution to effect the hydrolysis. The reaction mixture was treated by customary procedures to obtain 2.7 g of 4-(4'heptyloxybenzyloxy)benzoic acid.

reactant | 4-heptyloxybenzyl alcohol | 2.2 g | C(CCCCCC)OC1=CC=C(CO)C=C1 | C14H22O2
reactant | ethyl 4-hydroxybenzoate | 1.7 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | diethyl azodicarboxylate | 1.8 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | ethyl 4-(4'-heptyloxybenzyloxy)benzoate | 3.1 g | C(CCCCCC)OC1=CC=C(COC2=CC=C(C(=O)OCC)C=C2)C=C1 | C23H30O4
